US04343942
2,2-Dimethyl-2H-Benzimidazole-1,3-Dioxide
To a mixture containing 2-nitropropane (10.7 g., 0.12 moles), benzofuroxan (13.6 g., 0.10 moles) and tetrahydrofuran (50 ml.) is added dropwise diethylamine (8.7 g., 0.12 mole). The reaction temperature rises during addition. Upon completion of addition, the reaction mixture is allowed to sit overnight at room temperature.

reactant | 2-nitropropane | 0.12 moles, 10.7 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | benzofuroxan | 0.10 moles, 13.6 g | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | diethylamine | 0.12 mole, 8.7 g | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2-Dimethyl-2H-Benzimidazole-1,3-Dioxide | CC1([N+](=C2C(=[N+]1[O-])C=CC=C2)[O-])C | C9H10N2O2
